US05071841
To a solution of 6,7-dimethyl-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxylic acid (0.945 g) in THF (10 ml) were added oxalyl chloride (0.609 g) and DMF (2 drops), and the mixture was stirred at room temperature for 1 hour. On the other hand, a mixture of diethoxyphosphorylamine (4.9 g), sodium hydride in oil (60%, 0.32 g) and THF (30 ml) was stirred with ice-cooling for 30 minutes and, then, the above solution was added. The mixture was stirred with ice-cooling for 30 minutes, poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and the solvent was distilled off to give N-diethoxyphosphoryl-6,7-dimethyl-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxamide (0.29 g, 19%). Recrystallization from ethyl acetate gave colorless prisms melting at 192°-1931/2° C.

reactant | 6,7-dimethyl-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxylic acid | 0.945 g | CC=1C(=CC2=C(C(CSC2C(=O)O)=O)C1)C | C12H12O3S
reactant | oxalyl chloride | 0.609 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethoxyphosphorylamine | 4.9 g | C(C)OP(=O)(OCC)N | C4H12NO3P
reactant | sodium hydride | [H-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-diethoxyphosphoryl-6,7-dimethyl-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxamide | 0.29 g, 19% | C(C)OP(=O)(OCC)NC(=O)C1SCC(C2=C1C=C(C(=C2)C)C)=O | C16H22NO5PS
